US07439240B2
(i) Methyl 2-oxotetrahydrofuran-3-carboxylate
Cyclopropane-1,1-dicarboxylic acid (10 g) in acetonitrile(200 ml) was treated with triethylamine (43 ml) and iodomethane (19 ml) at room temperature. The solution was stirred for 2 h then heated at 75° C. for 16 h. The solvent was removed under reduced pressure, the residue dissolved in water, extracted with ethyl acetate, dried(MgSO4) and evaporated to a brown oil (6.70 g).

reactant | Cyclopropane-1,1-dicarboxylic acid | 10 g | C1(CC1)(C(=O)O)C(=O)O | C5H6O4
reactant | triethylamine | 43 ml | C(C)N(CC)CC | C6H15N
reactant | iodomethane | 19 ml | IC | CH3I
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | Methyl 2-oxotetrahydrofuran-3-carboxylate | O=C1OCCC1C(=O)OC | C6H8O4
